US09034866B2
Synthesis of (R)-3-cyclopropyl-9-fluoro-10-(3-hydroxy-3-(5-methylisoxazol-3-yl)but-1-yn-1-yl)-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide
Similar to as described in General Procedure E, 10-bromo-3-cyclopropyl-9-fluoro-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide was reacted with (R)-2-(5-methylisoxazol-3-yl)but-3-yn-2-ol to give the titled compound. MS+447.2. 1H NMR (400 MHz, DMSO) δ 8.68 (d, J=7.5 Hz, 1H), 7.45 (br s, 1H), 7.26 (d, J=10.1 Hz, 1H), 6.92 (br s, 1H), 6.57 (s, 1H), 6.35 (s, 1H), 5.26 (m, 1H), 3.68 (m, 1H), 314 (m, 1H), 2.41 (s, 3H), 1.82 (s, 3H), 1.77-1.61 (overlapping m, 3H), 0.99 (m, 1H), 0.68 (m, 1H).

reactant | 10-bromo-3-cyclopropyl-9-fluoro-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide | BrC=1C(=CC2=C(C=3N(C4CC2C4)C(=C(N3)C(=O)N)C3CC3)C1)F | C17H15BrFN3O
reactant | (R)-2-(5-methylisoxazol-3-yl)but-3-yn-2-ol | CC1=CC(=NO1)[C@@](C)(C#C)O | C8H9NO2
product | (R)-3-cyclopropyl-9-fluoro-10-(3-hydroxy-3-(5-methylisoxazol-3-yl)but-1-yn-1-yl)-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide | C1(CC1)C1=C(N=C2N1C1CC(C3=C2C=C(C(=C3)F)C#C[C@](C)(C3=NOC(=C3)C)O)C1)C(=O)N | C25H23FN4O3
